US04125622
Analogously to Example 1, from citraconic acid anhydride and 2-hydroxy-2-methylheptane-1-thiol in the presence of diisopropylamine and the usual working up of the reaction mixture, 3,6-dimethyl-2-oxo-6-pentyl-1,4-oxathiane-3-acetic acid is obtained. Using chromatographic purification it can be separated into two isomers:

reactant | citraconic acid anhydride | C1(\C(\C)=C/C(=O)O1)=O | C5H4O3
reactant | 2-hydroxy-2-methylheptane-1-thiol | OC(CS)(CCCCC)C | C8H18OS
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
product | 3,6-dimethyl-2-oxo-6-pentyl-1,4-oxathiane-3-acetic acid | CC1(C(OC(CS1)(CCCCC)C)=O)CC(=O)O | C13H22O4S
